US04208517
(6R,7R)-3-Acetoxymethyl-7-[Z-2-(fur-2-yl)-2-(1-ureidocarbonylcyclopent-1-yloximino)acetamido]-ceph-3-em-4-carboxylic acid
This was prepared from 1-bromo-1-ureidocarbonylcyclopentane and (6R,7R)-3-acetoxymethyl-7-[Z-2-(fur-2-yl)-2-hydroxyiminoacetamido]-ceph-3-em-4-carboxylic acid sodium salt, in a similar manner to Example 2. [α]D22 +95° (c 0.55, DMSO), λmax (EtOH) 275 nm (ε16,500), νmax (Nujol) 3420, 3300 (NH, NH2), 3700-2100 (bonded OH), 1788 (β-lactam), 1735 (acetate), 1710, 1690, 1565, 1550 cm-1 (CONH, CONHCONH2), τ (DMSO d6) 7.92 (OAc), 4.95, 5.28 (dd J 13) (3 --CH2), 6.23, 6.49 (dd, J 18) (2 --CH2), 4.71 (d, J=5) (6 H), 4.09 (dd J=5, 8) (7 H), 0.02 (d, J=8) (CONH), 2.11, 3.19, 3.32 (furyl), 7.9-8.3 (cyclopentyl), 0.65 (CONHCO), 2.17, 2.64 (CONH2). Yield: 85%.

reactant | 1-bromo-1-ureidocarbonylcyclopentane | BrC1(CCCC1)C(=O)NC(=O)N | C7H11BrN2O2
reactant | (6R,7R)-3-acetoxymethyl-7-[Z-2-(fur-2-yl)-2-hydroxyiminoacetamido]-ceph-3-em-4-carboxylic acid sodium salt | [Na+].C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC(\C(=N/O)\C=2OC=CC2)=O)=O
reactant | acetate | C(C)(=O)[O-]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | EtOH | CCO | C2H6O
product | (6R,7R)-3-Acetoxymethyl-7-[Z-2-(fur-2-yl)-2-(1-ureidocarbonylcyclopent-1-yloximino)acetamido]-ceph-3-em-4-carboxylic acid | Yield: 85% | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(\C(=N/OC2(CCCC2)C(=O)NC(=O)N)\C=2OC=CC2)=O)=O | C23H25N5O10S
